US04171431
The ethylbiuret prepared in Part A, above, [592 gm. 4.7 mole] is dispersed in 24 liter absolute ethanol and 1.6 liter benzene. This reaction mixture is heated to the reflux temperature and 3.5 liter of solvent medium is removed by distillation. The solution is cooled to 60° C. and 2090 gm. of a 25 percent solution of sodium methoxide in methanol is slowly added over an interval of five minutes. That addition is followed by the addition of 820 gm. of ethylformate. This reaction mixture is heated at the reflux temperature for three (3) hours, whereupon the solution is cooled to 38° C. and concentrated hydrochloric acid is added slowly until the pH of the solution is 2. To the acidified solution is added more (3.4 liter) benzene. Then 2 liter of the solvent medium is removed by distillation under reduced pressure and 50° C. The mixture is then heated to 75° C. and filtered in order to remove the sodium chloride produced by the reaction. The filter cake of salt is washed with hot absolute ethanol which washings are added to the filtrate. The volume of the combined filtrate and absolute ethanol washings is reduced to 5 liter by evaporation under reduced pressure at 50° C. The resulting concentrate is cooled at 5° C. for 18 hours while crystals form. The crystals are collected on a filter and washed with cold (5°) ethanol. The washed crystals are dried in an oven under reduced pressure at 50° C. for 18 hours. There is thus obtained 408 gm. of crude product having a melting point at 137° to 139° C. A further purification is achieved by dissolving the 408 gm. in 4 liter methanol at reflux temperature. This solution is concentrated by allowing the methanol to evaporate to a volume of 2 l. while being heated on a steam bath. The concentrated solution is allowed to cool slowly to 25° C. It is then chilled to 5° C. for two hours. The crystals that form are collected on a filter and the filter cake is washed with ice-cold methanol. After drying there is obtained 389 gm. (58.7 percent yield) of 1-ethyl-5-azauracil having a melting point of 141° to 142° C. A second crop of crystals is recovered from the mother liquor after further concentration and cooling.

reactant | ethylbiuret | C(C)NC(=O)NC(=O)N | C4H9N3O2
reactant | ethanol | 24 liter | C(C)O | C2H6O
solvent | benzene | 1.6 liter | C1=CC=CC=C1 | C6H6
product | 1-ethyl-5-azauracil | 58.7 percent yield | C(C)N1C(=O)NC(=O)N=C1 | C5H7N3O2
